US05241064
A mixture of ethyl 2-(1-acetoxyethyl)acrylate (1 g) and Lipase (0.25 g) in 0.1M phosphate buffer solution (pH 7.0) (80 ml) was stirred at room temperature for 60 hours. The whole mixture was extracted three times with ethyl acetate and the combined extracts were dried over magnesium sulfate. After removal of the solvent in vacuo, the crude product was purified by column chromatography on silica gel (eluent : a mixture of hexane and ethyl acetate, 2:1) to give ethyl 2-[(1R)-1-hydroxyethyl]acrylate (298 mg).

reactant | ethyl 2-(1-acetoxyethyl)acrylate | 1 g | C(C)(=O)OC(C)C(C(=O)OCC)=C | C9H14O4
solvent | phosphate | 0.1M, 80 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
product | ethyl 2-[(1R)-1-hydroxyethyl]acrylate | 298 mg | O[C@H](C)C(C(=O)OCC)=C | C7H12O3
